US06277886B1
To a mixture of racemic 1-aminoindan (64 g), 15% aqueous sodium hydroxide solution (141 g), water (107 mL) and toluene (192 mL) there was added propargyl benzenesulfonate (94.3 g) during 20 minutes at ambient temperature. The resulting mixture was heater to 45° C. for 4 hours, at which time the pH was confirmed to be >12(45% sodium hydroxide added if necessary) and the phases were separated. To the organic phase water (64 mL) was added and the pH was adjusted to 2 with 33% aqueous sulfuric acid. The aqueous phase was separated, diluted with water and mixed with toluene. The pH was adjusted to 6 with 25% aqueous sodium hydroxide and the phases separated. The aqueous phase was extracted again with toluene, ensuring a pH=6. The combined organic layers were concentrated in vacuo to yield 51 g of crude racemic N-propargyl-1-aminoindan as a yellow oil.

reactant | racemic 1-aminoindan | 64 g | NC1CCC2=CC=CC=C12 | C9H11N
reactant | sodium hydroxide | 141 g | [OH-].[Na+]
reactant | water | 107 mL | O | H2O
reactant | propargyl benzenesulfonate | 94.3 g | C1(=CC=CC=C1)S(=O)(=O)OCC#C | C9H8O3S
solvent | toluene | 192 mL | C1(=CC=CC=C1)C | C7H8
product | racemic N-propargyl-1-aminoindan | 51 g | C(C#C)NC1CCC2=CC=CC=C12 | C12H13N
